US08957074B2
Following general N—C coupling procedure 1, 4-(6-aminopyridin-3-yl)-1,4-diazabicyclo[3.2.2]nonan-3-one was combined with 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide and gave 7-cyclopentyl-N,N-dimethyl-2-(5-(3-oxo-1,4-diazabicyclo[3.2.2]nonan-4-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide, 99 mg in 86% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.74 (s, 1H), 8.55 (d, J=9.09 Hz, 1H), 8.16 (d, J=2.02 Hz, 1H), 8.09 (s, 1H), 7.55 (dd, J1=9.09 Hz, J2=2.53 Hz, 1H), 6.47 (s, 1H), 4.81 (m, 1H), 3.93 (s, 2H), 3.82 (m, 1H), 3.19 (m, 10H), 2.59 (m, 2H), 2.41 (m, 2H), 2.07 (m, 6H), 1.74 (m, 2H); HRMS m/z 489.2740 (M+H)+.

reactant | 4-(6-aminopyridin-3-yl)-1,4-diazabicyclo[3.2.2]nonan-3-one | NC1=CC=C(C=N1)N1C(CN2CCC1CC2)=O | C12H16N4O
reactant | 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
product | 7-cyclopentyl-N,N-dimethyl-2-(5-(3-oxo-1,4-diazabicyclo[3.2.2]nonan-4-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 86% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C(CN1CCC2CC1)=O)C(=O)N(C)C | C26H32N8O2
